US05674906
Synthesis of (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-L-threonineamide Hydrochloride
(E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-Boc-L-threonineamide (810 mg, 1.95 mmols) were dissolved in 10 ml of dichloromethane, and 5 ml of a solution of 4-M hydrochloric acid and dioxane were added thereto. The mixture was reacted at 60° C. for 3 hours. One-hundred milliliters of diethyl ether were added thereto, and the mixture was filtered. The resulting powder was purified twice through medium-pressure liquid chromatography (ODS, mixture of water and acetonitrile at a ratio of 75:25), and was dissolved in a small amount of methanol. A mixture of acetonitrile and ethyl acetate was added thereto, and the precipitate was collected by filtration to obtain 290 mg (0.607 mmols) of the final product in a yield of 31%.

reactant | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile Boc-L-threonineamide | 1.95 mmols, 810 mg | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OC(C)(C)C)N[C@@H]([C@H](O)C)C(=O)N
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | diethyl ether | One-hundred milliliters | C(C)OCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile L-threonineamide Hydrochloride | 0.607 mmols, 290 mg, yield of 31% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.Cl.N[C@@H]([C@H](O)C)C(=O)N | InChI=1S/C19H20N2O4.C4H10N2O2.ClH/c1-22-16-6-5-12(8-15(16)21)7-14(11-20)13-9-17(23-2)19(25-4)18(10-13)24-3;1-2(7)3(5)4(6)8;/h5-10H,21H2,1-4H3;2-3,7H,5H2,1H3,(H2,6,8);1H/b14-7-;;/t;2-,3+;/m.1./s1
